US09108938B2
A mixture of 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoacetonitrile (150 mg, 0.59 mmol), Raney-Ni (75 mg), NH3.H2O (2 mL) in MeOH (20 mL) was degassed and purged with Ar and H2 each 3 times. The mixture was stirred at room temperature under H2 (50 psi) for 3 h. The resulting mixture was filtered through celite. The filtrate was concentrated under reduced pressure to give crude 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoethanamine, which was used in the next step without further purification.

reactant | 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoacetonitrile | 0.59 mmol, 150 mg | FC(C1=NC=C(C=N1)C(C#N)N1CCOCC1)F | C11H12F2N4O
reactant | NH3.H2O | 2 mL | N.O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Ni | 75 mg | [Ni] | Ni
product | 2-(2-(difluoromethyl)pyrimidin-5-yl)-2-morpholinoethanamine | FC(C1=NC=C(C=N1)C(CN)N1CCOCC1)F | C11H16F2N4O
